Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Bicycle accident 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is ___, who initially presented to the ED on ___ s/p 
bicycle accident. Per bystanders, patient was riding a bicycle 
when he fell, with positive head strike and postictal confusion 
immediately after the incident. Noted per EMS to have had about 
500- 750 CC of bleeding in the field, arrived in C collar. 
 
Past Medical History:
None
 
Social History:
___
Family History:
Adopted. Birth mother deceased at ___ yo from brain aneurysm. 
 
Physical Exam:
Admission: 

Gen: Mildly disoriented.
HEENT: 4 cm long scalp laceration, hemostatic on arrival. EOMI. 
pupils 2 mm and reactive 
Neck: No swelling. Trachea is midline. 
Cor: RRR. No m/r/g. 
Pulm: CTAB, Nonlabored respirations. 
Abd: Soft, nontender, nondistended. 
Ext: No edema, cyanosis, or clubbing. No midline spinal 
tenderness 
Skin: No rashes. No skin breakdown 
Neuro: GCS14, mildly disoriented. Gross sensorimotor intact. 
Psych: Normal mentation. 
Heme: No petechia. No ecchymosis. 
Rectal: Brown stool, no gross blood. rectal tone intact

Discharge: 

General: Awake, alert, NAD, resting comfortably in bed 
HEENT: Scalp laceration c/d/i with sutures in place 
Neck: C collar in place 
CV: +RRR, +S1/S2, no RMG 
Resp: Normal WOB, +CTAB, no wheezes or crackles 
GI: Abdomen soft, non-distended, non-TTP
Extremities: Warm, well-perfused 
 
Pertinent Results:
___ 04:20PM BLOOD WBC-12.9* RBC-5.40 Hgb-15.1 Hct-50.6 
MCV-94 MCH-28.0 MCHC-29.8* RDW-12.3 RDWSD-42.5 Plt ___
___ 04:20PM BLOOD Neuts-51.0 ___ Monos-8.7 Eos-0.2* 
Baso-0.5 Im ___ AbsNeut-6.54* AbsLymp-4.76* AbsMono-1.12* 
AbsEos-0.03* AbsBaso-0.07
___ 04:20PM BLOOD ___ PTT-30.8 ___
___ 04:20PM BLOOD Glucose-86 UreaN-22* Creat-2.1* Na-143 
K-4.0 Cl-97 HCO3-8* AnGap-38*
___ 04:20PM BLOOD ALT-14 AST-26 CK(CPK)-184 AlkPhos-100 
TotBili-0.7
___ 06:25PM BLOOD CK(CPK)-231
___ 04:20PM BLOOD Albumin-5.2
___ 06:25PM BLOOD Calcium-9.2 Phos-2.3* Mg-3.1*
___ 06:25PM BLOOD CK-MB-3 cTropnT-<0.01
___ 04:20PM BLOOD Lipase-55
___ 04:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:24PM BLOOD ___ pO2-25* pCO2-55* pH-7.24* 
calTCO2-25 Base XS--5

___ 04:53AM BLOOD WBC-6.7 RBC-4.87 Hgb-13.8 Hct-43.3 MCV-89 
MCH-28.3 MCHC-31.9* RDW-13.3 RDWSD-43.5 Plt ___
___ 04:53AM BLOOD Plt ___
___ 04:53AM BLOOD Glucose-98 UreaN-16 Creat-1.3* Na-144 
K-4.0 Cl-108 HCO3-24 AnGap-12
___ 04:53AM BLOOD Calcium-8.8 Phos-3.2 Mg-2.0
 
Brief Hospital Course:
Upon arrival to the ED, the patient was evaluated by the 
Emergency Medicine and Trauma teams. Patient was hypotensive, 
and received 2 units pRBCs and crystalloid, to which he 
responded appropriately. Primary survey was notable for GCS 14 
secondary to mild confusion, but otherwise intact. On secondary 
survey, the patient was found to have a 4 cm scalp laceration. 
The laceration was repaired primarily with sutures by the Trauma 
team. Upon CT head/neck/chest/abdomen/pelvis, he was also found 
to have a C7 nondisplaced right superior facet fracture and 2.6 
cm right thyroid gland nodule. Labs were notable for elevated 
lactate and WBC, suggestive of likely seizure, and Neurology was 
consulted. Given the C7 fracture, Spine was also consulted. The 
patient was admitted to Trauma Surgery for further evaluation. 

While inpatient, the patient was seen by the Spine team, who 
recommended an MRI of the C/T spine. This demonstrated a C7-T1 
interspinous ligament injury, for which they recommended: 1) 
Outpatient follow up in 6 weeks, 2) C collar in place until 
follow up (may remove for hygiene), 3) No strenuous activity. 
The patient was seen by the Neurology team, who believe his 
presentation was consistent with first time seizure vs syncopal 
episode. They recommended 1) starting Keppra with 1500 mg IV 
loading dose then continuing 1 g BID x 14 days, and 2) 
continuous EEG, and 3) MRI brain. EEG showed showed no seizure 
activity, and MRI brain showed non-specific white matter changes 
in left frontal lobe. The Neurology team then updated their 
recommendations to 1) outpatient follow up in ___ wks, 2) 
possible MRA in the outpatient setting given family history of 
aneurysms. The patient was then deemed ready for discharge, 
given final recommendations from Neurology and Spine teams. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan. He was instructed to follow up with his PCP 
___ 1 - 2 wks for suture removal and work up of the incidental 
thyroid nodule. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
please limit to 4000mg in 24 hour period  
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
3.  LevETIRAcetam Oral Solution 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tab by mouth twice a day Disp #*22 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C7-T1 interspinous ligament injury
C7 nondisplaced right superior facet fracture 
2.6 cm right thyroid gland nodule

C7-T1 interspinous ligament injury
C7 nondisplaced right superior facet fracture 
2.6 cm right thyroid gland nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
evaluation after you were struck by a vehicle while riding your 
bike. You underwent testing and were found to have multiple 
injuries including C7-T1 inter-spinous ligament injury and a C7 
non-displaced right superior facet fracture. You were placed in 
a cervical collar at the recommendation of ortho-spine and you 
were evaluated by neurology due to your loss of consciousness at 
the time of the accident. You had an EEG done to rule out 
seizures and were started on a short course of keppra to prevent 
seizure activity. You were incidentally found to have a nodule 
on your thyroid that should be evaluated, please follow up with 
your primary care provider to have this done. You are otherwise 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.
Dear Mr. ___,

You were admitted to ___ for 
evaluation after you were struck by a vehicle while riding your 
bike. You underwent testing and were found to have multiple 
injuries including C7-T1 inter-spinous ligament injury and a C7 
non-displaced right superior facet fracture. You were placed in 
a cervical collar at the recommendation of ortho-spine and you 
were evaluated by neurology due to your loss of consciousness at 
the time of the accident. You had an EEG done to rule out 
seizures and were started on a short course of keppra to prevent 
seizure activity. You were incidentally found to have a nodule 
on your thyroid that should be evaluated, please follow up with 
your primary care provider to have this done. You are otherwise 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___